* E:\Dropbox\PSYNTH\Simulation\LFO.asc
V3 +15V 0 15
V4 0 -15V 15
XU2 N003 N001 +15V -15V N002 AD795
R2 +15V VREF 100k
R5 VREF 0 100k
R1 N002 N001 10k
R3 N002 N003 50k
R4 N003 0 10k
C1 N001 0 22µ
XU1 N008 N006 +15V 0 N007 AD795
R6 N007 N008 10k
R7 N004 P001 10k
XU3 N010 N004 +15V 0 N005 AD795
C2 N005 N004 22µ
R8 N005 N008 2.2k
R9 N006 VREF 470k
R10 N010 VREF 470k
C3 N009 N005 22µ
R11 N009 0 100k
R12 P001 N007 470
.tran 0 0.25 0 0.01
.lib ADI1.lib
.backanno
.end
