* E:\Dropbox\PSYNTH\Simulation\LFO.asc
V3 +15V 0 15
V4 0 -15V 15
XU2 N003 N001 +15V -15V N002 AD795
R2 +15V VREF 100k
R5 VREF 0 100k
R1 N002 N001 10k
R3 N002 N003 50k
R4 N003 0 10k
C1 N001 0 22µ
XU1 N014 N012 +15V 0 N013 AD795
R6 N013 N014 10k
R7 N010 P001 10k
XU3 N015 N010 +15V 0 N011 AD795
C2 N011 N010 22µ
R8 N011 N014 2.2k
R9 N012 VREF 470k
R10 N015 VREF 470k
C3 N006 N011 22µ
R11 N006 0 100k
R12 P001 N013 470
D1 0 N009 1N750
R13 N008 N009 860
C4 N009 0 1µ
R15 N009 0 100k
C5 N008 N013 220µ
XU4 N007 N004 +15V 0 N004 AD795
C6 N007 N006 220µ
R14 N007 0 47k
R16 +15V N007 47k
C7 N005 N004 220µ
R17 N005 0 100k
.model D D
.lib C:\Users\psmus\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 0.25 0 0.01
.lib ADI1.lib
.backanno
.end
